US05935908
At 10-20° C., 28.4 g of potassium tert-butanolate are introduced into a solution of 19.35 g of 2-tolylglyoxylic acid methyl ester oxime in 250 ml of 1,2-dimethoxyethane. As soon as a fine suspension has formed, chlorodifluoromethane is introduced at 25-30° C. After 5 hours, the reaction mixture is concentrated by evaporation in vacuo, water is added to the residue and the product is weakly acidified with 2N hydrochloric acid and extracted several times with ethyl acetate. After washing and concentrating the combined organic phases by evaporation, purification is carried out by flash chromatography (silica gel, ethyl acetate/hexane 1:5), yielding 2-tolylglyoxylic acid methyl ester O-difluoromethyloxime in the form of a yellow oil.

reactant | potassium tert-butanolate | 28.4 g | C(C)(C)(C)[O-].[K+]
reactant | 2-tolylglyoxylic acid methyl ester oxime | 19.35 g | COC(C(C1=C(C=CC=C1)C)=NO)=O | C10H11NO3
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | 2-tolylglyoxylic acid methyl ester O-difluoromethyloxime | FC(ON=C(C(=O)OC)C1=C(C=CC=C1)C)F | C11H11F2NO3
